US04554007
(A) Synthesis of 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-one (Compound No. 29') by Method C
1-(1-Methylcyclopropyl)-2-(1,2,4-triazole-1-yl)ethane-1-one (10 g, 0.06 mole), 4-chlorobenzaldehyde (9 g, 0.06 mole), anhydrous potassium carbonate (8 g, 0.06 mole) and acetic anhydride (100 ml) were mixed, and the mixture was heated to 100° C. for 6 hours with stirring. Precipitates in the reaction solution was removed by filtration, and the filtrate was concentrated under reduced pressure to obtain an oily product. The oily product was extracted with chloroform (300 ml), and the extract was washed with a sodium hydrogen carbonate-saturated water (300 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. One drop of the residue was dissolved in acetone, and the acetone solution was gas-chromatographed under the conditions described below. Then, a peak corresponding to the II-A isomer was found at a retention time of 250 sec, and that corresponding to the II-B isomer at a retention time of 300 sec. The ratio of the both isomers was 19.1/63.5, i.e. about 1/3, as calculated from the percentage of each area.

reactant | 1-(1-Methylcyclopropyl)-2-(1,2,4-triazole-1-yl)ethane-1-one | 0.06 mole, 10 g | CC1(CC1)C(CN1N=CN=C1)=O | C8H11N3O
reactant | 4-chlorobenzaldehyde | 0.06 mole, 9 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | potassium carbonate | 0.06 mole, 8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-one | ClC1=CC=C(C=C1)C=C(C(=O)C1(CC1)C)N1N=CN=C1 | C15H14ClN3O
